US08877782B2
3-{[6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine-3-carbonyl]-amino}-azetidine-1-carboxylic acid tert-butyl ester
As described for example 191, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (200 mg, 0.65 mmol) was converted, using 3-amino-1-N-Boc-azetidine instead of 2-aminoethyl isopropylether, to the title compound (257 mg, 86%) which was obtained as a white solid. MS: m/e=463.3 [M−H]−.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.65 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | 3-amino-1-N-Boc-azetidine | NC1CN(C1)C(=O)OC(C)(C)C | C8H16N2O2
product | 3-{[6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine-3-carbonyl]-amino}-azetidine-1-carboxylic acid tert-butyl ester | 257 mg, 86% | C(C)(C)(C)OC(=O)N1CC(C1)NC(=O)C=1C=NC(=CC1)OCC=1C(=NOC1C)C1=CC=CC=C1 | C25H28N4O5
